US05792860
d. 4-dodecyloxy-5-(1,4,7,10-tetraoxaundecyl)-phthalonitrile
A mixture of 1,2-dibromo-4-dodecyloxy-5-(1,4,7,10-tetraoxaundecyl)benzene (4.5 g, 7.7 mmole) and copper (I) cyanide (2.1 g, 23 mmoles) in anhydrous DMF (50 ml) was heated and stirred at 150° C. for 48 h under a nitrogen atmosphere. The mixture was carefully poured into rapidly stirred concentrated aqueous ammonia solution (300 ml). After 1 h, the precipitate was filtered and washed with ammonia solution (50 ml) and water (200 ml). The resultant solid was dried and then passed down a silica column (ethyl acetate/petrol, 2:5) to give 4-dodecyloxy-5-(1,4,7,10-tetraoxaundecyl)-phthalonitrile as white needles (1.7 g, 47%), m.p. 38°-40° C.(recrystallised from methanol/water), (Found C, 68.20; H, 9.00; N, 6.10, C27H42 N2O5 requires C,68.32; H, 8.92; N, 5.90); MS (CI) m/e 492 (M+ +NH4+); δH (200 MHz, CDCl3) 0.85(t, 3H), 1.23(br s, 18H), 1.83(q, 2H), 3.35 (s, 3H), 3.63 (m, 8H), 3.89 (t, 2H), 4.03 (t, 2H), 4.23(t, 2H), 7.12 (s, 1H), and 7.23 (s, 1H) and 4-dodecyloxy-5-(1,4,7,10-tetraoxaundecyl)phthalimide (0.27 g, 6%) as small white needles, m.p. 73°-74° C. (recrystallised from methanol/water), (Found C, 65.70; H, 8.78; N, 2.70, C27H43 NO7 requires C,65.69; H, 8.78; N, 2.70); MS (CI) m/e 511 (M+ +NH4+); δH (200 MHz, CDCl3) 0.85(t, 3H), 1.27(br s, 18H), 1.85(q, 2H), 3.38 (s, 3H), 3.66 (m, 8H), 3.93 (t, 2H), 4.09 (t, 2H), 4.27(t, 2H), 7.27 (s, 1H), 7.30 (s, 1H) and 7.34 (s, 1H).

reactant | 1,2-dibromo-4-dodecyloxy-5-(1,4,7,10-tetraoxaundecyl)benzene | 7.7 mmole, 4.5 g | BrC1=C(C=C(C(=C1)OCCOCCOCCOC)OCCCCCCCCCCCC)Br | C25H42Br2O5
reactant | copper (I) cyanide | 23 mmoles, 2.1 g | [Cu]C#N
reactant | ammonia | 300 ml | N | H3N
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-dodecyloxy-5-(1,4,7,10-tetraoxaundecyl)-phthalonitrile | C(CCCCCCCCCCC)OC=1C=C(C(C#N)=CC1OCCOCCOCCOC)C#N | C27H42N2O5
